US07973047B2
Step 1: 4-(2,2-dimethoxyethyl)hepta-1,6-dien-4-ol
In a 2 liter round bottom flask equipped with a stir bar, methyl 3,3-dimethoxypropanoate (24 g, 162 mmol) was dissolved in THF (1 L). Under nitrogen, the solution was chilled to −78° C. Allyl Magnesium bromide, 1.0 M solution in diethyl ether (405 mL, 405 mmol) was added dropwise in such a way that the internal temperature remained lower than −75° C. After addition, the reaction was allowed to stir for 3 hours at −78° C. before being quenched with saturated ammonium chloride solution (300 mL). The ice bath was removed and the reaction allowed to come to RT. Water was added (200 mL) and the reaction was concentrated on a rotary evaporator to remove as much THF as possible. The product was extracted from the resulting aqueous with diethyl ether (3×200 mL). The organics were then washed with brine (100 mL), dried over magnesium sulfate, filtered and concentrated to afford the product.

reactant | methyl 3,3-dimethoxypropanoate | 162 mmol, 24 g | COC(CC(=O)OC)OC | C6H12O4
reactant | Allyl Magnesium bromide | C(C=C)[Mg]Br
reactant | diethyl ether | 405 mmol, 405 mL | C(C)OCC | C4H10O
reactant | THF | 1 L | C1CCOC1 | C4H8O
product | 4-(2,2-dimethoxyethyl)hepta-1,6-dien-4-ol | COC(CC(CC=C)(CC=C)O)OC | C11H20O3
